US06441023B1
1-Benzyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4carboxylic Acid hydroxyamide
To a stirred solution of 4-(4-Methoxy-benzenesulfonyl)-1-benzyl-piperidine-4-carboxylic acid (2.0 g, 5.1 mmol) and DMF (2 drops) in CH2Cl2 (100 ml) at OC, oxalyl chloride (1.0 gm, 8 mmol) was added in a drop-wise manner. After the addition, the reaction mixture was stirred at room temperature for 1 hour. Simultaneously, in a separate flask a mixture of hydroxylainine hydrochloride (2.0 gm, 29 mmol) and triethylamine (5 ml, excess) was stirred in THF:water (5:1, 30 ml) at 0° C. for 1 hour. At the end of 1 hour, the oxalyl chloride reaction mixture was concentrated and the pale yellow residue was dissolved in 10 ml of CH2Cl2 and added slowly to the hydroxylamine at 0° C. The reaction mixture was stirred at room temperature for 24 hours and concentrated. The residue obtained was extracted with chloroform and washed well with water. The product obtained was purified by silica gel column chromatography and eluted with chloroform the product 4-(4-Methoxy-benzenesulfonyl)-l-benzyl-piperidinefcarboxylic acid hydroxyamide was isolated as a colorless solid. mp 90-95° C.; Yield, 1.2 g, 48%; MS: 405 (M+H)+; 1H NMR (300 MHz, DMSO-d6): 8 2.29 (m, 3H), 2.76-2.79 (m, 2H), 3.43 (m, 4H),4.30 (s, 2H), 7.14-7.17 (d,2H), 7.50-7.73 (m, 5H), 9.37 (s,lH), 10.53 (s,lH), 11.18 (s,1H).

reactant | 4-(4-Methoxy-benzenesulfonyl)-1-benzyl-piperidine-4-carboxylic acid | 5.1 mmol, 2.0 g | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)O | C20H23NO5S
reactant | oxalyl chloride | 8 mmol, 1.0 gm | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrochloride | 29 mmol, 2.0 gm | Cl | ClH
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | THF water | 30 ml | C1CCOC1.O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(4-methoxy-benzenesulfonyl)-piperidine-4carboxylic Acid hydroxyamide | ONC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C20H24N2O5S
